US05736534
4-(6-Chloro-2,3-dihydro-indol-1-yl)-6-morpholin-4-yl-quinazoline
4-Chloro-6-morpholino-quinazoline (382 mg, 1.53 mmol) and 6-chloroindoline (258 mg, 1.63 mmol) were heated at reflux in 8 mL of 1,2-dichloroethane and pyridine (264 mg, 3.36 mmol) for 16 hours. The reaction mixture was vacuum evaporated and partitioned between 100 mL of ethyl acetate and 50 mL of 5% sodium bicarbonate. The organic layer was washed with an additional 50 mL of bicarbonate and 50 mL of brine, dried with magnesium sulfate, filtered and evaporated in vacuo to a residue. This was purified by flash chromatography on silica gel eluted with 20% acetone/methylene chloride. The pure solid isolated from the column was converted to its hydrochloride salt by dissolution in methanol containing 1.1 equivalents of anhydrous hydrogen chloride and precipitation with ether; 396 mg (65%); M.P. 277°-279° C.

reactant | 4-Chloro-6-morpholino-quinazoline | 1.53 mmol, 382 mg | ClC1=NC=NC2=CC=C(C=C12)N1CCOCC1 | C12H12ClN3O
reactant | 6-chloroindoline | 1.63 mmol, 258 mg | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | pyridine | 3.36 mmol, 264 mg | N1=CC=CC=C1 | C5H5N
reactant | methanol | 1.1 equivalents | CO | CH4O
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
solvent | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-6-morpholin-4-yl-quinazoline | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC=C(C=C12)N1CCOCC1 | C20H19ClN4O
